US07074817B2
[5-(4-Acetylphenyl)-1-benzyl-1H-indol-3-yl](oxo)acetic acid
[5-(4-Acetylphenyl)-1-benzyl-1H-indol-3-yl](oxo)acetic acid was prepared from ethyl [5-(4-acetylphenyl)-1-benzyl-1H-indol-3-yl](oxo)acetate (0.225 g, 0.529 mmol), and potassium hydroxide (0.104 g, 1.85 mmol) in THF (7 mL) and water (7 mL) according to the procedure described in Step 4 of Example 5. After drying for 15 hours at 96° C., the title compound was obtained as a tan solid (0.166 g, 79%), mp: 213-214° C. (dec.). Mass spectrum (−APCI, [M−H]−) m/z 396; 1HNMR (400 MHz, DMSO-d6): δ 8.75 (s, 1H), 8.5 (d, 1H, J=1.7 Hz), 8.05 (d, 2H, J=8.3 Hz), 7.8 (d, 2H, J=8.3 Hz), 7.7 (d, 1H, J=8.8 Hz), 7.65 (dd, 1H, J=8.7 Hz and 1.6 Hz), 7.25-7.4 (m, 5H), 5.65 (s, 2H), and 2.6 ppm (s, 3H).

reactant | ethyl [5-(4-acetylphenyl)-1-benzyl-1H-indol-3-yl](oxo)acetate | 0.529 mmol, 0.225 g | C(C)(=O)C1=CC=C(C=C1)C=1C=C2C(=CN(C2=CC1)CC1=CC=CC=C1)C(C(=O)OCC)=O | C27H23NO4
reactant | potassium hydroxide | 1.85 mmol, 0.104 g | [OH-].[K+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | water | 7 mL | O | H2O
product | [5-(4-Acetylphenyl)-1-benzyl-1H-indol-3-yl](oxo)acetic acid | C(C)(=O)C1=CC=C(C=C1)C=1C=C2C(=CN(C2=CC1)CC1=CC=CC=C1)C(C(=O)O)=O | C25H19NO4
